US09102591B2
2,3-Dimethyl-N-(1-pyridin-3-yl-cyclopentylmethyl)-benzamide
From 2,3-dimethylbenzoic acid and C-(1-pyridin-3-yl-cyclopentyl)-methylamine. LCMS (MH+): m/z=309.1, tR (minutes, Method A)=1.11

reactant | 2,3-dimethylbenzoic acid | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | C-(1-pyridin-3-yl-cyclopentyl)-methylamine | N1=CC(=CC=C1)C1(CCCC1)CN | C11H16N2
product | 2,3-Dimethyl-N-(1-pyridin-3-yl-cyclopentylmethyl)-benzamide | CC1=C(C(=O)NCC2(CCCC2)C=2C=NC=CC2)C=CC=C1C | C20H24N2O
